US04369184
A mixture of 17 parts of ethyl 4-(5-chloro-2-methoxyphenyl)-1-(4-methylphenylsulfonyl)-4-piperidinecarboxylate, 7.5 parts of phenol and 135 parts of a hydrobromic acid solution in acetic acid is stirred overnight at room temperature. The reaction mixture is poured onto water and the whole is washed with 2,2'-oxybispropane. The aqueous phase is alkalized with sodium hydroxide while cooling. The product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 2-propanol and 2,2'-oxybispropane, yielding 7 parts (55%) of ethyl 4-(5-chloro-2-methoxyphenyl)-4-piperidinecarboxylate hydrochloride.

reactant | ethyl 4-(5-chloro-2-methoxyphenyl)-1-(4-methylphenylsulfonyl)-4-piperidinecarboxylate | ClC=1C=CC(=C(C1)C1(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC)OC | C22H26ClNO5S
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 4-(5-chloro-2-methoxyphenyl)-4-piperidinecarboxylate hydrochloride | 55% | Cl.ClC=1C=CC(=C(C1)C1(CCNCC1)C(=O)OCC)OC | InChI=1S/C15H20ClNO3.ClH/c1-3-20-14(18)15(6-8-17-9-7-15)12-10-11(16)4-5-13(12)19-2;/h4-5,10,17H,3,6-9H2,1-2H3;1H
